US08278316B2
C. 6-((4-Chlorophenylthio)methyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
A mixture of 6-((4-chlorophenylthio)methyl)pyrimidin-4(3H)-one Part B (25 mg, 0.10 mmol), 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol Part B of Procedure 1 (32.7 mg, 0.12 mmol), N1,N2-dimethylethane-1,2-diamine (26.2 mg, 0.30 mmol), potassium phosphate tribasic (63.0 mg, 0.30 mmol) and copper (I) iodide (18.84 mg, 0.10 mmol) in dioxane (4.0 mL) was stirred in a sealed tube at 110° C. for 60 min. After the mixture had cooled to RT, the precipitate removed by filtration and the filtrate was concentrated. The crude product was purified by flash chromatography (silica gel/CH2Cl2-10% MeOH/CH2Cl2 100:0 to 0:100 gradient, using LC-MS to identify fractions containing the desired product). The pure fractions were lyophilized with MeCN/H2O (1:1, 4 mL) to afford the title compound 6-((4-chlorophenylthio)methyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one G-1 as an off-white solid (1.40 mg, 3.01% yield). LC/MS 447 (M+H)+, tR 0.92 min (method 5); 1H NMR (500 MHz, Chloroform-D) δ ppm 8.14 (1H, br. s.), 7.27-7.36 (4H, m), 6.99 (1H, d, J=8.25 Hz), 6.79-6.88 (2H, m), 6.45 (1H, s), 3.96 (2H, s), 3.82-3.90 (5H, m), 1.36 (6H, s).

reactant | 6-((4-chlorophenylthio)methyl)pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)SCC1=CC(NC=N1)=O | C11H9ClN2OS
reactant | 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol | BrC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H15BrO3
reactant | N1,N2-dimethylethane-1,2-diamine | 0.30 mmol, 26.2 mg | CNCCNC | C4H12N2
reactant | potassium phosphate tribasic | 0.30 mmol, 63.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.10 mmol, 18.84 mg | [Cu]I
product | 6-((4-chlorophenylthio)methyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | 1.40 mg, 3.01% yield | ClC1=CC=C(C=C1)SCC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C22H23ClN2O4S
